US04064257
This example illustrates methods for preparing the compounds of the present invention. In this example a mixture containing 12 g. (0.0314 mole) of 1,2-epoxy-3-[5-(5-methylhex-3-ynylaminocarbonyl)thiazol-2-yloxy]propane, 12 g. (0.203 mole) of isopropylamine and 20 ml. of ethanol is allowed to stand at room temperature for 12 hours. The mixture is then evaporated under vacuum to remove the solvent and the resulting residue dissolved in 50 ml. of ethyl acetate and cooled to -20° C, and maintained at this temperature for 2 hours. The mixture is then filtered and the resulting filter cake washed with cold (about 0° C) ethyl ether and then recrystallized from ethyl acetate affording 1-isopropylamino-3-[5-(5-methylhex-3-ynylaminocarbonyl)thiazol-2-yloxy]-propan-2-ol.

reactant | 1,2-epoxy-3-[5-(5-methylhex-3-ynylaminocarbonyl)thiazol-2-yloxy]propane | 0.0314 mole | O1CC1COC=1SC(=CN1)C(=O)NCCC#CC(C)C | C14H18N2O3S
reactant | isopropylamine | 0.203 mole | C(C)(C)N | C3H9N
solvent | ethanol | C(C)O | C2H6O
product | 1-isopropylamino-3-[5-(5-methylhex-3-ynylaminocarbonyl)thiazol-2-yloxy]-propan-2-ol | C(C)(C)NCC(COC=1SC(=CN1)C(=O)NCCC#CC(C)C)O | C17H27N3O3S
